US08226929B2
Synthesis of 2-tert-butyl-4-chloro-5-(2-tert-butyldimethylsilyloxy-1-(4-tert-butylphenyl)-1-ethyl)oxy-3(2H)-pyridazinone
To a solution of 2-tert-butyl-4,5-dichloro-3(2H)-pyridazinone (0.5 g, 2.27 mmol) in DMP (10 ml) were added anhydrous cesium carbonate (0.74 g, 2.27 mmol) and 1-tert-butyldimethylsilyloxy 2-hydroxy 2-(4-tertbutylphenyl)ethane (0.7 g, 2.27 mmol). The mixture is stirred for 2 hours at 70° C. and then cooled to room temperature and ethyl acetate is added to it. The solution is then washed with water, dried and concentrated and the residue subjected to purification by flash chromatography (silica gel; ethyl acetate/hexanes) to give the above compound.

reactant | 2-tert-butyl-4,5-dichloro-3(2H)-pyridazinone | 2.27 mmol, 0.5 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)Cl | C8H10Cl2N2O
reactant | cesium carbonate | 2.27 mmol, 0.74 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-tert-butyldimethylsilyloxy 2-hydroxy 2-(4-tertbutylphenyl)ethane | 2.27 mmol, 0.7 g | [Si](C)(C)(C(C)(C)C)OCC(C1=CC=C(C=C1)C(C)(C)C)O | C18H32O2Si
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-tert-butyl-4-chloro-5-(2-tert-butyldimethylsilyloxy-1-(4-tert-butylphenyl)-1-ethyl)oxy-3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OC(CO[Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)C(C)(C)C | C26H41ClN2O3Si
